*** SPICE deck for cell XOR{lay} from library XorGate
*** Created on Paz Ara 14, 2025 17:53:24
*** Last revised on Pzt Ara 15, 2025 21:35:19
*** Written on Pzt Ara 15, 2025 21:36:17 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** TOP LEVEL CELL: XorGate:XOR{lay}
Mnmos@0 net@6 A out gnd N L=0.6U W=3U AS=4.275P AD=5.4P PS=5.85U PD=8.1U
Mnmos@1 out net@17 net@6 gnd N L=0.6U W=3U AS=5.4P AD=4.275P PS=8.1U PD=5.85U
Mnmos@2 net@6 net@28 gnd gnd N L=0.6U W=3U AS=17.775P AD=5.4P PS=25.35U PD=8.1U
Mnmos@3 gnd B net@6 gnd N L=0.6U W=3U AS=5.4P AD=17.775P PS=8.1U PD=25.35U
Mnmos@4 gnd A net@28 gnd N L=0.6U W=3U AS=6.75P AD=17.775P PS=10.5U PD=25.35U
Mnmos@5 net@17 B gnd gnd N L=0.6U W=3U AS=17.775P AD=6.75P PS=25.35U PD=10.5U
Mpmos@0 vdd A net@1 vdd P L=0.6U W=3U AS=2.25P AD=21.6P PS=4.5U PD=27.9U
Mpmos@2 net@1 net@17 out vdd P L=0.6U W=3U AS=4.275P AD=2.25P PS=5.85U PD=4.5U
Mpmos@3 out net@28 net@4 vdd P L=0.6U W=3U AS=2.7P AD=4.275P PS=4.8U PD=5.85U
Mpmos@4 net@4 B vdd vdd P L=0.6U W=3U AS=21.6P AD=2.7P PS=27.9U PD=4.8U
Mpmos@5 vdd A net@28 vdd P L=0.6U W=3U AS=6.75P AD=21.6P PS=10.5U PD=27.9U
Mpmos@6 net@17 B vdd vdd P L=0.6U W=3U AS=21.6P AD=6.75P PS=27.9U PD=10.5U

* Spice Code nodes in cell cell 'XorGate:XOR{lay}'
vdd vdd 0 DC 5 
va A 0 DC pwl 10n 0 20n 5 50n 5 60n 0 90n 0 100n 5 130n 5 140n 0 170n 0 180n 5
vb B 0 DC pwl 10n 0 20n 5 100n 5 110n 0 
.tran 200n 
.include C:\Users\omery\Desktop\C5_models.txt
* Trailer cards described in this file:
.include C:\Users\omery\Desktop\C5_models.txt
.END
